US07238808B2
4-[4-Trifluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidin-8-ylethynyl]-benzenesulfonamide
The title compound was prepared from 8-ethynyl-4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidine (example C.17) (178 mg, 0.5 mmol) and commercially available 4-bromo-benzenesulfonamide (118 mg, 0.5 mmol) according to general procedure II. Obtained as a brown solid (176 mg, 69%). MS (ISN) 511.2 [(M+H)+]; mp 290° C.

reactant | 8-ethynyl-4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidine | 0.5 mmol, 178 mg | C(#C)C=1N=CN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 4-bromo-benzenesulfonamide | 0.5 mmol, 118 mg | BrC1=CC=C(C=C1)S(=O)(=O)N | C6H6BrNO2S
product | 4-[4-Trifluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidin-8-ylethynyl]-benzenesulfonamide | FC(C1=CC(=NC=2N1C=NC2C#CC2=CC=C(C=C2)S(=O)(=O)N)C2=CC=C(C=C2)C(F)(F)F)(F)F | C22H12F6N4O2S
